US07345056B2
To a solution of 9-(4-chloro-benzenesulfonyl)-2-dimethylaminomethylene-4-ethyl-9-aza-bicyclo[3.3.1]nonan-3-one crude mixture in glacial acetic acid (1 mL) followed by hydrazine monohydrate (0.5 mL). The reaction mixture was stirred at 100° C. for 1 h after which the solution was cooled to room temperature and quenched by the addition of a saturated aqueous NaHCO3 solution (until pH>7). The resulting solution was extracted with EtOAc (3×20 mL), the organic extracts were combined, dried (Na2SO4), filtered, concentrated and purified by silica gel column chromatography and preparative HPLC to give 12-(4-chloro-benzenesulfonyl)-7-ethyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene as a white solid. Retention time (min)=1.896, Method [1], MS (ESI) 366.1 (M+H); 1H-NMR (300 MHz, CDCl3) δ 7.81-7.78 (m, 2H), 7.47-7.43 (m, 2H), 7.25 (s, 1H), 5.15 (b s, 1H), 4.27 (d, J=4.95 Hz, 1H), 2.56 (dd, J=9.34, 5.49 Hz, 1H), 2.10-1.22 (m, 8H), 1.02 (t, J=7.14 Hz, 3H) (major diastereomer); 1H-NMR (300 MHz, CDCl3) δ 7.68-7.66 (m, 2H), 7.35-7.32 (m, 2H), 7.22 (s, 1H), 5.28 (b s, 1H), 4.31 (d, J=5.5 Hz, 1H), 2.80-2.73 (m, 1H), 2.05-1.21 (m, 8H), 1.06 (t, J=7.69 Hz, 3H) (minor diastereomer).

reactant | 9-(4-chloro-benzenesulfonyl)-2-dimethylaminomethylene-4-ethyl-9-aza-bicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(C(C1CCC2)CC)=O)=CN(C)C | C19H25ClN2O3S
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 12-(4-chloro-benzenesulfonyl)-7-ethyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3C(C1CCC2)CC | C17H20ClN3O2S
